US07902238B2
d) ((S)-2-Amino-4,5-dihydro-oxazol-4-ylmethyl)-ethyl-(6-trifluoromethyl-pyridin-3-yl)-amine
To a stirred mixture of (S)-2-amino-3-[ethyl-(6-trifluoromethyl-pyridin-3-yl)-amino]-propan-1-ol (0.04 g, 0.15 mmol) and K2CO3 (0.025 g, 0.18 mmol) in THF (2 ml) under an argon atmosphere was added a solution of cyanogen bromide (0.025 g, 0.18 mmol) in THF (1 ml). The mixture was stirred for 1 hour, then ethylacetate and water were added. The aqueous phase was back extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (SiO2, EtOAc/MeOH=9:1) to give the title compound as white solid (0.02 g, 46%), MS (ISP): 289.0 ([M+H]+).

reactant | (S)-2-amino-3-[ethyl-(6-trifluoromethyl-pyridin-3-yl)-amino]-propan-1-ol | 0.15 mmol, 0.04 g | N[C@H](CO)CN(C=1C=NC(=CC1)C(F)(F)F)CC | C11H16F3N3O
reactant | K2CO3 | 0.18 mmol, 0.025 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 0.18 mmol, 0.025 g | N#CBr | CBrN
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ((S)-2-Amino-4,5-dihydro-oxazol-4-ylmethyl)-ethyl-(6-trifluoromethyl-pyridin-3-yl)-amine | 0.02 g, 46% | NC=1OC[C@@H](N1)CN(C=1C=NC(=CC1)C(F)(F)F)CC | C12H15F3N4O
